US05296478
1,3-dihydro-3,3-bis(2-fluoro-4-pyridinylmethyl)-1-(4-morpholinyl)-2H-indol-2-one
Sodium hydride (60% oil dispension 92 mg, 2.3 mmole) was charged to a flame-dried flask and washed with pentane (3×3 ml). The flask was flushed with nitrogen, tetrahydrofuran (10 ml) was added and the slurry was stirred at 0° C. 1,3-dihydro-1-(4-morpholinyl)-2H-indol-2-one (225 mg, 1.0 mmole) was added, the resulting solution was stirred for 15 minutes at room temperature and recooled to 0° C. A solution of 2-Fluoro-4-picolyl chloride (410 mg, 2.3 mmole) in tetrahydrofuran (10 ml) was added and the solution allowed to stir at room temperature overnight. The reaction was quenched into water (40 ml) and extracted with dichloromethane(3×25 ml). The combined organics were washed with brine, dried over magnesium sulfate, filter and concentrated under reduced pressure. The residue was chromatographed on silica gel or directly recrystallized from chloroform/hexane to give the desired product; m.p. 198°-203° C. Anal. (C24H22F2N4O2.0.25H2O): C,H,N,F.

reactant | Sodium hydride | 2.3 mmole, 92 mg | [H-].[Na+]
reactant | 1,3-dihydro-1-(4-morpholinyl)-2H-indol-2-one | 1.0 mmole, 225 mg | N1(CCOCC1)N1C(CC2=CC=CC=C12)=O | C12H14N2O2
reactant | 2-Fluoro-4-picolyl chloride | 2.3 mmole, 410 mg | FC1=NC=CC(=C1)CCl | C6H5ClFN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1,3-dihydro-3,3-bis(2-fluoro-4-pyridinylmethyl)-1-(4-morpholinyl)-2H-indol-2-one | FC1=NC=CC(=C1)CC1(C(N(C2=CC=CC=C12)N1CCOCC1)=O)CC1=CC(=NC=C1)F | C24H22F2N4O2
